US08008350B2
i) 4-bromo-3-methylphenyl 4-fluorophenyl sulfone
The subtitle compound was prepared by the method of example 9 step (i) using 4-bromo-3-methylbenzene sulfonyl chloride and fluorobenzene.

reactant | 4-bromo-3-methylbenzene sulfonyl chloride | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
product | 4-bromo-3-methylphenyl 4-fluorophenyl sulfone | FC1=CC=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)Br)C | C13H10BrFO2S
